US08022099B2
a) (3SR,4RS)-1-Benzyl-3-(4-chloro-3-fluoro-phenyl)-4-nitro-pyrrolidine
A solution of N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine (1.00 g, 4.2 mmol) in CH2Cl2 (5 ml) was added drop wise, over a 30 minutes period, to a stirred solution of 1-chloro-2-fluoro-4-((E)-2-nitro-vinyl)-benzene (0.68 g, 3.37 mmol) and trifluoroacetic acid (30 ul) in CH2Cl2 (5 ml) at 0° C. The ice bath was removed, and the solution was stirred at 25° C. for an additional 48 h. It was then concentrated and purification by flash chromatography (SiO2, EtOAc/H 1:4) afforded 0.78 g (55%) of the title compound as a colorless oil. ES-MS m/e: 335.2 (M+H+).

reactant | N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine | 4.2 mmol, 1.00 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | 1-chloro-2-fluoro-4-((E)-2-nitro-vinyl)-benzene | 3.37 mmol, 0.68 g | ClC1=C(C=C(C=C1)\C=C\[N+](=O)[O-])F | C8H5ClFNO2
reactant | trifluoroacetic acid | 30 ul | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | (3SR,4RS)-1-Benzyl-3-(4-chloro-3-fluoro-phenyl)-4-nitro-pyrrolidine | 0.78 g, 55% | C(C1=CC=CC=C1)N1CC(C(C1)[N+](=O)[O-])C1=CC(=C(C=C1)Cl)F | C17H16ClFN2O2
